US06228893B1
Paratoluenesulfonic acid (20 mg) was added to a solution of 193 mg of 1,1-(ethylenedioxy)-3-(10-hydroxydecyl)-3-(phenylsulfonyl)-cyclohexane in 3 ml of chloroform and 0.6 ml of acetone. To the resulting mixture was added 10 ml of a saturated aqueous solution of sodium bicarbonate, followed by extraction with dichloromethane. The organic layer was washed with saturated saline and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane-ethyl acetate, whereby 86 mg of 3-(10-hydroxydecyl)-2-cyclohexen-1-one were obtained in the form of a colorless oil. Yield: 77%

reactant | 1,1-(ethylenedioxy)-3-(10-hydroxydecyl)-3-(phenylsulfonyl)-cyclohexane | 193 mg | C1OC2(CC(CCC2)(S(=O)(=O)C2=CC=CC=C2)CCCCCCCCCCO)OC1 | C24H38O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 0.6 ml | CC(=O)C | C3H6O
product | 3-(10-hydroxydecyl)-2-cyclohexen-1-one | 86 mg, Yield: 77% | OCCCCCCCCCCC1=CC(CCC1)=O | C16H28O2
